US04316913
8.7 g (0.073 mol) of thionyl chloride were added to a mixture of 22.96 g (0.07 mol) of 4-trifluoromethoxy-α-hydroxy-benzylphosphonic acid diethyl ester, 70 ml of methylene chloride and 5.6 g (0.07 mol) of pyridine at 20°-40° C. in the course of about 1 hour, while cooling slightly with water. The reaction mixture was then heated to 50° C. for 3 hours and was subsequently stirred for 12 hours without further action of heat. The mixture was poured onto about 100 g of ice-water and the organic phase was separated off and dried. After distilling off the solvent, the residue was concentrated under 2 mm Hg and at 45° C. 18.7 g (77.1% of theory) of 4-trifluoromethoxy-α-chloro-benzyl-phosphonic acid diethyl ester were obtained as a yellow viscous oil with a refractive index of nD22 : 1.4968.

reactant | thionyl chloride | 0.073 mol, 8.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-trifluoromethoxy-α-hydroxy-benzylphosphonic acid diethyl ester | 0.07 mol, 22.96 g | C(C)OP(OCC)(=O)C(C1=CC=C(C=C1)OC(F)(F)F)O | C12H16F3O5P
reactant | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
reactant | pyridine | 0.07 mol, 5.6 g | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 4-trifluoromethoxy-α-chloro-benzyl-phosphonic acid diethyl ester | 18.7 g, 77.1% | C(C)OP(OCC)(=O)C(C1=CC=C(C=C1)OC(F)(F)F)Cl | C12H15ClF3O4P
